US04728652
A suspension of 1,2,3,4-tetrahydro-6-methyl-4-(3-nitrophenyl)-2-thioxo-5-pyrimidinecarboxylic acid, ethyl ester (400 mg., 1.24 mmole), potassium carbonate (270 mg., 2.0 mmole) and benzyl bromide (240 mg., 1.4 mmole) in acetone (7.0 ml.) is stirred at room temperature overnight. The solid is filtered off and the filtrate is diluted with ethyl acetate. The solution is washed with water and brine, and is dried over anhydrous magnesium sulfate. Evaporation of the solvent provides a light yellow solid which is triturated with isopropyl ether and filtered off to give 370 mg. of product. This material is combined with product from another run (150 mg.) and recrystallized from isopropyl etherdichloromethane to give 1,4-dihydro-6-methyl-4-(3-nitrophenyl)-2-[(phenylmethyl)thio]-5-pyrimidinecarboxylic acid, ethyl ester as light yellow crystals; m.p. 129°-130°. TLC (silica gel; ethyl acetate:hexane, 40:60) Rf =0.39.

reactant | 1,2,3,4-tetrahydro-6-methyl-4-(3-nitrophenyl)-2-thioxo-5-pyrimidinecarboxylic acid, ethyl ester | 1.24 mmole, 400 mg | CC1=C(C(NC(N1)=S)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC | C14H15N3O4S
reactant | potassium carbonate | 2.0 mmole, 270 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 1.4 mmole, 240 mg | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 7.0 ml | CC(=O)C | C3H6O
product | 1,4-dihydro-6-methyl-4-(3-nitrophenyl)-2-[(phenylmethyl)thio]-5-pyrimidinecarboxylic acid, ethyl ester | CC1=C(C(N=C(N1)SCC1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC | C21H21N3O4S
